US05506261
A suspension of 2-iodo-5-(4-pyridylhydroxymethyl)thiophene (0.65 g, 2.05 mmol) and tin(II) chloride dihydrate (1.01 g, 4.51 mmol) in acetic acid (5 mL) was treated with HCl gas for 10 rain and stirred for 2 hours at ambient temperature. The reaction mixture was poured into H2O, neutralized with 10% aqueous NaOH, and extracted twice with ethyl acetate. The combined organic layers were washed with H2O, dried over MgSO4, filtered, and concentrated in vacuo. Chromatography on silica gel provided 2-iodo-5-(4-pyridylmethyl)thiophene (0.22 g, 36% yield) as a white solid.

reactant | 2-iodo-5-(4-pyridylhydroxymethyl)thiophene | 2.05 mmol, 0.65 g | IC=1SC(=CC1)C(O)C1=CC=NC=C1 | C10H8INOS
reactant | tin(II) chloride dihydrate | 4.51 mmol, 1.01 g | O.O.[Sn](Cl)Cl
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
product | 2-iodo-5-(4-pyridylmethyl)thiophene | 0.22 g, 36% yield | IC=1SC(=CC1)CC1=CC=NC=C1 | C10H8INS
